** sch_path: /home/dt/Documents/madvlsi/final/schematics/comparator_tb_2.sch
**.subckt comparator_tb_2
x1 VDD Vbn Iin_p Iin_n phi1 phi2 Q QBAR GND comparator
x2 Iin_p Vgate Vmid Vbn GND IV_converter
x3 Iin_n Vgate Vmid Vbn GND IV_converter
Vdd VDD GND 1.8
X4 VDD phi1 phi2 GND inverter
Vclk phi1 GND pulse 0 1.8 250n 10n 10n 230n 500n
x5 VDD Vbp Vbn GND bias_gen
I1 net1 Iin_p pwl(0 16.59u 9u 16.59u 10u 16.61u)
I2 net2 Iin_n pwl(0 16.61u 9u 16.61u 10u 16.59u)
Vgate Vgate GND 1.5
Vmid Vmid GND 0
**** begin user architecture code
.lib /usr/local/share/pdk/sky130A/libs.tech/combined/sky130.lib.spice tt


.control
  save all
  set wr_vecnames
  set wr_singlescale
  remzerovec
  tran 1n 20u
  * dc Vin_p 0 1.8 0.01
  write comparator_tb_2.raw
  * wrdata ~/Documents/madvlsi/final/schematics/cccc.txt v(vin_p) i(vib) i(viout_p) i(viout_n)
  quit
.endc


**** end user architecture code
**.ends

* expanding   symbol:  comparator.sym # of pins=9
** sym_path: /home/dt/Documents/madvlsi/final/schematics/comparator.sym
** sch_path: /home/dt/Documents/madvlsi/final/schematics/comparator.sch
.subckt comparator VDD Vbn Vin_p Vin_n phi1 phi2 Q Qbar GND
*.ipin Vin_p
*.ipin Vin_n
*.ipin Vbn
*.ipin phi1
*.ipin phi2
*.opin Q
*.opin Qbar
*.iopin VDD
*.iopin GND
XM2 net1 Vin_p net3 GND sky130_fd_pr__nfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 VDD net3 net2 VDD sky130_fd_pr__pfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 VDD net2 net3 VDD sky130_fd_pr__pfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM7 net3 phi1 net2 VDD sky130_fd_pr__pfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net2 phi2 Q VDD sky130_fd_pr__pfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 net3 phi2 Qbar VDD sky130_fd_pr__pfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1 net1 Vin_n net2 GND sky130_fd_pr__nfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 GND Vbn net1 GND sky130_fd_pr__nfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM9 GND phi2 Q GND sky130_fd_pr__nfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM10 GND Q Qbar GND sky130_fd_pr__nfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM11 GND Qbar Q GND sky130_fd_pr__nfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM12 GND phi2 Qbar GND sky130_fd_pr__nfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
**** begin user architecture code


.param wid=3 len=0.5


**** end user architecture code
.ends


* expanding   symbol:  IV_converter.sym # of pins=5
** sym_path: /home/dt/Documents/madvlsi/final/schematics/IV_converter.sym
** sch_path: /home/dt/Documents/madvlsi/final/schematics/IV_converter.sch
.subckt IV_converter Iin_Vout Vgate Vmid Vbn GND
*.iopin Iin_Vout
*.iopin GND
*.iopin Vmid
*.ipin Vbn
*.ipin Vgate
XM1 GND net1 Iin_Vout VDD sky130_fd_pr__pfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net1 net1 Vmid Vmid sky130_fd_pr__pfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 Vbn GND GND sky130_fd_pr__nfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 Iin_Vout Vgate Vmid GND sky130_fd_pr__nfet_01v8 L=4 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
**** begin user architecture code


.param wid=3 len=0.5


**** end user architecture code
.ends


* expanding   symbol:  inverter.sym # of pins=4
** sym_path: /home/dt/Documents/madvlsi/final/schematics/inverter.sym
** sch_path: /home/dt/Documents/madvlsi/final/schematics/inverter.sch
.subckt inverter VP A Y GND
*.ipin A
*.iopin VP
*.iopin GND
*.opin Y
**** begin user architecture code


.param wid=3 len=0.5


**** end user architecture code
XM1 Y A VP VDD sky130_fd_pr__pfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 Y A GND GND sky130_fd_pr__nfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  /home/dt/Documents/madvlsi/final/schematics/bias_gen/bias_gen.sym # of pins=4
** sym_path: /home/dt/Documents/madvlsi/final/schematics/bias_gen/bias_gen.sym
** sch_path: /home/dt/Documents/madvlsi/final/schematics/bias_gen/bias_gen.sch
.subckt bias_gen VDD Vbp Vbn GND
*.iopin VDD
*.opin Vbp
*.iopin GND
*.opin Vbn
**** begin user architecture code

.param len=0.5 wid=3

**** end user architecture code
XM10 net3 net1 net1 GND sky130_fd_pr__nfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=10 m=10
XM11 Vbn Vbn GND GND sky130_fd_pr__nfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM12 GND Vbp GND GND sky130_fd_pr__nfet_01v8 L=10 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM13 VDD Vbp net1 VDD sky130_fd_pr__pfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM14 GND Vbn Vbp GND sky130_fd_pr__nfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM15 net2 net1 GND GND sky130_fd_pr__nfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM16 VDD net2 net2 VDD sky130_fd_pr__pfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM17 Vbp net2 VDD VDD sky130_fd_pr__pfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM18 Vbn Vbp VDD VDD sky130_fd_pr__pfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XR2 GND net3 GND sky130_fd_pr__res_high_po_0p35 L=9 mult=1 m=1
.ends

.GLOBAL GND
.GLOBAL VDD
.end
